US07173048B2
A solution of 50 mg (0.1 mmol) of 4-{5-methyl-4-[2-methyl-5-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-indol-1-ylmethyl]-oxazol-2-yl}-benzaldehyde in 1 ml of THF was cooled to 0° C. and treated with 0.13 ml (0.4 mmol) of a 3M methylmagnesium bromide solution in diethylether. The mixture was stirred and allowed to reach RT within 1 hr. Distribution of the crude between a saturated aqueous solution of NH4Cl and EtOAc, drying of the combined organic phases over Na2SO4, evaporation of the solvent, and chromatography on silica gel with heptane/EtOAc 4:1 gave 44 mg (85%) of 1,1,1,3,3,3-hexafluoro-2-(1-{2-[4-(1-hydroxy-ethyl)-phenyl]-5-methyl-oxazol-4-ylmethyl}-2-methyl-1H-indol-5-yl)-propan-2-ol, off-white solid, MS: 513 (MH+).

reactant | 4-{5-methyl-4-[2-methyl-5-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-indol-1-ylmethyl]-oxazol-2-yl}-benzaldehyde | 0.1 mmol, 50 mg | CC1=C(N=C(O1)C1=CC=C(C=O)C=C1)CN1C(=CC2=CC(=CC=C12)C(C(F)(F)F)(C(F)(F)F)O)C | C24H18F6N2O3
reactant | methylmagnesium bromide | 3M | C[Mg]Br
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | diethylether | C(C)OCC | C4H10O
product | 1,1,1,3,3,3-hexafluoro-2-(1-{2-[4-(1-hydroxy-ethyl)-phenyl]-5-methyl-oxazol-4-ylmethyl}-2-methyl-1H-indol-5-yl)-propan-2-ol | 44 mg, 85% | FC(C(C(F)(F)F)(O)C=1C=C2C=C(N(C2=CC1)CC=1N=C(OC1C)C1=CC=C(C=C1)C(C)O)C)(F)F | C25H22F6N2O3
